US09023849B2
3-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one
182 mg (0.42 mmol) of methyl 2-{3-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate were admixed with 3.8 ml (40.87 mmol) of phosphoryl chloride and the mixture was stirred at RT for 2.5 h. The reaction solution was diluted with 20 ml of dry acetonitrile and gradually added dropwise while cooling with ice to 40 ml of a 25% aqueous ammonia solution, and the mixture was stirred at RT for 2 h. The reaction mixture was concentrated on a rotary evaporator and the precipitate was filtered off. The residue was stirred with DMF/methanol and filtered with suction, and the solids were dried under high vacuum. 98 mg of the target compound were obtained (purity 92%; 53% of theory).

reactant | methyl 2-{3-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 0.42 mmol, 182 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1 | C21H20FN7O3
reactant | phosphoryl chloride | 40.87 mmol, 3.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one | 98 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC2=C(N3)NC(C2(C)C)=O)C=CC=C1 | C20H17FN8O
